US05472933
N-(1,1-Dimethylethyl)-1-methyl-2-(methylthio)-1H-pyrrole-3-sulfonamide
To a solution of 6.48 g (30 mmol) of N-(1,1-dimethylethyl)-1-methyl-1H-pyrrole-3-sulfonamide in 150 mL THF under nitrogen atmosphere cooled to -78° C. was added dropwise at such a rate as to keep the temperature below -65° C. 25.52 mL (61.5 mmol) 2.41M n-butyllithium in hexanes. The reaction was stirred at -78° C. for ca. 30 minutes. To the reaction mixture was added 2.97 mL (33 mmol) of dimethyldisulfide in one portion and the resulting reaction mixture was allowed to warm to room temperature and stir for ca. 1.5 hours. The reaction mixture was cooled to 0° C. and acidified with 1N HCl. The THF phase was separated washed with brine, dried (MgSO4) and concentrated in vacuo. The crude residue was chromatographed on silica (20% ethyl acetate/80% hexanes) affording 4.63 g of the title compound as an off white solid, m.p. 116°-119° C. 1H NMR (CDCl3, 200 MHz.) δ: 6.72(d,1H), 6.58(d,1H), 4.96(bs,1H), 3.74(s,3H), 2.35(s,3H), 1.23(s,9H).

reactant | N-(1,1-dimethylethyl)-1-methyl-1H-pyrrole-3-sulfonamide | 30 mmol, 6.48 g | CC(C)(C)NS(=O)(=O)C1=CN(C=C1)C | C9H16N2O2S
reactant | n-butyllithium | 61.5 mmol, 2.41M, 25.52 mL | C(CCC)[Li]
reactant | dimethyldisulfide | 33 mmol, 2.97 mL | CSSC | C2H6S2
reactant | HCl | 1N | Cl | ClH
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | N-(1,1-Dimethylethyl)-1-methyl-2-(methylthio)-1H-pyrrole-3-sulfonamide | 4.63 g | CC(C)(C)NS(=O)(=O)C1=C(N(C=C1)C)SC | C10H18N2O2S2
